US08207214B2
a) N-(9-ethyl-9H-carbazol-3-yl)-2-methoxybenzamide
3-Amino-9-ethylcarbazole (5.6 g; 0.027 mol) was reacted with 2-methoxybenzoyl chloride (4.35 ml; 0.029 mol) by working in a manner similar to that described in Example 4.

reactant | 3-Amino-9-ethylcarbazole | 0.027 mol, 5.6 g | NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C14H14N2
reactant | 2-methoxybenzoyl chloride | 0.029 mol, 4.35 ml | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
product | N-(9-ethyl-9H-carbazol-3-yl)-2-methoxybenzamide | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)NC(C1=C(C=CC=C1)OC)=O | C22H20N2O2
